### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/FreeModule/Int): index of submodules of free ℤ-modules

### PR DESCRIPTION
**Pull request by jsm28**
Add some versions of the lemma that a submodule of a finite-dimensional free ℤ-module is a subgroup of finite index if and only if it's isomorphic to the original module.  The version I actually have a use for is the final multiplicative version:

```lean
lemma subgroup_index_ne_zero_iff {m : ℕ} {H : Subgroup (Fin m → Multiplicative ℤ)} :
    H.index ≠ 0 ↔ Nonempty (H ≃* (Fin m → Multiplicative ℤ)) := by
```

From AperiodicMonotilesLean.

---

Please feel free to golf, improve naming, identify better locations for the lemmas or further lemmas to extract from the proofs, and eliminate the uses of `erw` (I'm not sure entirely why they are needed, though I guess maybe some instances are defeq but not syntactically equal to what's needed for the lemmas being rewritten on).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/FreeModule/Int.lean [hunk 1]
```diff
@@ -0,0 +1,157 @@
...
+
+This file provides lemmas about when a submodule of a free ℤ-module is a subgroup of finite
+index.
+
+-/
+
+
+namespace Basis.SmithNormalForm
+
+lemma toAddSubgroup_index_ne_zero_iff {M : Type*} {m n : ℕ} [AddCommGroup M] {N : Submodule ℤ M}
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/FreeModule/Int.lean:20]: Can you add a docstring? More precisely, I think it is worth to mention that the theorem is true because if `N` has infinite index, then `N.index` is `0` in Lean (I was puzzled by this for 2 minutes before realizing what the theorem was saying).

Also, can you replace `Fin m` by a generic type `ι` (maybe with `Fintype`) and use a cardinality statement?

**Review by riccardobrasca — COMMENTED** [review]
Most of the results work for any PID, right? It think it is worth to be in this generalization when possible.

**Comment by jsm28** [comment]
In addition to being a PID and being infinite, the key property of `ℤ` being used is that every nonzero ideal is of finite index, sometimes known as being residually finite or the finite norm property:

https://www.cambridge.org/core/journals/canadian-journal-of-mathematics/article/residually-finite-rings/9E0A2E50427FBD7D251FBCB84E193A1E
https://www.cambridge.org/core/journals/canadian-journal-of-mathematics/article/rings-with-finite-norm-property/DBB3C048E0535AB770D7155E59E844A4

I don't think we have this concept in mathlib (and I'm not sure if the result is particularly interesting or useful for such rings other than `ℤ`, but it does work for them).

**Comment by riccardobrasca** [comment]
> In addition to being a PID and being infinite, the key property of `ℤ` being used is that every nonzero ideal is of finite index, sometimes known as being residually finite or the finite norm property:
> 
> https://www.cambridge.org/core/journals/canadian-journal-of-mathematics/article/residually-finite-rings/9E0A2E50427FBD7D251FBCB84E193A1E https://www.cambridge.org/core/journals/canadian-journal-of-mathematics/article/rings-with-finite-norm-property/DBB3C048E0535AB770D7155E59E844A4
> 
> I don't think we have this concept in mathlib (and I'm not sure if the result is particularly interesting or useful for such rings other than `ℤ`, but it does work for them).

Ah yes, I was again tricked by the infinite index case. Maybe I am again wrong, but at least one implication should hold assuming `R` infinite.

File: Mathlib/LinearAlgebra/FreeModule/Int.lean (hunk 1 above)
Comment (jsm28) [reply Mathlib/LinearAlgebra/FreeModule/Int.lean]: I've added a doc string and changed everything to use a generic `Fintype` (or `Finite` type when `Fintype.card` isn't used in the lemma statements).

**Comment by jsm28** [comment]
> Ah yes, I was again tricked by the infinite index case. Maybe I am again wrong, but at least one implication should hold assuming `R` infinite.

I've refactored things so there's a general statement of the index as either a product or zero for a general `CommRing` (given a `SmithNormalForm`, which may only exist in the PID case). Translating to the `ℤ` form then needed a new lemma `Ideal.span_singleton_toAddSubgroup_eq_zmultiples`; I don't really think this file is a good place for it, but the more obvious location `Mathlib.RingTheory.Ideal.Span` doesn't work since it doesn't know about `zmultiples`, so feel free to suggest a better location for that new lemma that doesn't involve import creep.

**Comment by riccardobrasca** [comment]
> span_singleton_toAddSubgroup_eq_zmultiples

Having a look at the new version, but `find_home` suggests `Mathlib.Algebra.Module.Submodule.Pointwise` for `Ideal.span_singleton_toAddSubgroup_eq_zmultiples`.

File: Mathlib/LinearAlgebra/FreeModule/Int.lean [hunk 2]
```diff
@@ -0,0 +1,191 @@
...
+for the module, and otherwise equals the product of the indexes of the ideals generated by each
+basis vector. -/
+lemma toAddSubgroup_index_eq {ι R M : Type*} {n : ℕ} [Fintype ι] [Infinite R] [CommRing R]
+    [AddCommGroup M] [Module R M] {N : Submodule R M} (snf : Basis.SmithNormalForm N ι n) :
+    N.toAddSubgroup.index = (if n = Fintype.card ι then
+      ∏ i : Fin n, (Ideal.span {snf.a i}).toAddSubgroup.index else 0) := by
+  classical
+  rcases snf with ⟨bM, bN, f, a, snf⟩
+  dsimp only
+  let N' : Submodule R (ι → R) := N.map bM.equivFun
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/FreeModule/Int.lean:36]:
```suggestion
  set N' : Submodule R (ι → R) := N.map bM.equivFun with hN'
```
This is needed for my comment below.

File: Mathlib/LinearAlgebra/FreeModule/Int.lean [hunk 3]
```diff
@@ -0,0 +1,191 @@
...
+  have hNN' : N.toAddSubgroup.index = N'.toAddSubgroup.index := by
+    let e : (ι → R) ≃+ M := bM.equivFun.symm
+    let e' : (ι → R) →+ M := e
+    have he' : Function.Surjective e' := e.surjective
+    simp only [N']
+    erw [Submodule.map_toAddSubgroup]
+    convert (AddSubgroup.index_comap_of_surjective N.toAddSubgroup he').symm using 2
+    simp only [e']
+    rw [AddSubgroup.comap_equiv_eq_map_symm]
+    rfl
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/FreeModule/Int.lean:54]:
```suggestion
  have hNN' : N.toAddSubgroup.index = N'.toAddSubgroup.index := by
    set e : (ι → R) ≃+ M := ↑bM.equivFun.symm with he
    let e' : (ι → R) →+ M := e
    have he' : Function.Surjective e' := e.surjective
    convert (AddSubgroup.index_comap_of_surjective N.toAddSubgroup he').symm using 2
    rw [AddSubgroup.comap_equiv_eq_map_symm, he, hN', LinearEquiv.coe_toAddEquiv_symm,
    AddEquiv.symm_symm]
    exact Submodule.map_toAddSubgroup ..
```
The point of this proof is to avoid the final `rfl`, and replace it with a couple of `rw` (this makes the proof more robust). Note that I use the missing result
```lean
lemma LinearEquiv.coe_toAddEquiv_symm {R M N : Type*} [CommRing R] [AddCommGroup M] [Module R M]
    [AddCommGroup N] [Module R N] (f : M ≃ₗ[R] N) : (f.symm : N ≃+ M) = (f : M ≃+ N).symm := by
  rfl
```
that should be added somewhere in `Mathlib.Algebra.Module.Equiv.Defs`.

File: Mathlib/LinearAlgebra/FreeModule/Int.lean [hunk 4]
```diff
@@ -0,0 +1,191 @@
...
+              · simp
+          _ = g i := by
+              simp only [hj.choose_spec, ↓reduceIte]
+              rw [mul_comm]
+              conv_rhs =>
+                rw [← hj.choose_spec, (h (f hj.choose)).choose_spec]
+              simp only [EmbeddingLike.apply_eq_iff_eq, exists_eq, ↓reduceDIte, Classical.choose_eq]
+              convert rfl
+              · exact hj.choose_spec
+              · simp [hj]
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/FreeModule/Int.lean:103]:
```suggestion
              congr!
              · exact hj.choose_spec.symm
              · simp [hj]
```
looks nicer.

File: Mathlib/LinearAlgebra/FreeModule/Int.lean [hunk 5]
```diff
@@ -0,0 +1,191 @@
...
+  split_ifs with h
+  · have hb : Function.Bijective f :=
+      (Nat.bijective_iff_injective_and_card _).2 ⟨f.injective, by simp [h]⟩
+    let fe : Fin n ≃ ι := Equiv.ofBijective f hb
+    convert Finset.prod_map _ fe.toEmbedding _ with - - i -
+    · simp
+    · have he : ∃ j, f j = fe.toEmbedding i := ⟨i, rfl⟩
+      rw [dif_pos he]
+      convert rfl
+      exact f.injective he.choose_spec
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/FreeModule/Int.lean:122]:
```suggestion
      congr
      exact (f.injective he.choose_spec).symm
```
`congr` is basically `convert rfl`.

File: Mathlib/LinearAlgebra/FreeModule/Int.lean [hunk 6]
```diff
@@ -0,0 +1,191 @@
...
+    have hu : ¬(Finset.image f Finset.univ) = Finset.univ := by
+      rw [← Finset.card_eq_iff_eq_univ]
+      exact hi.ne
+    simp only [Finset.eq_univ_iff_forall, Finset.mem_image, Finset.mem_univ, true_and, not_forall,
+      not_exists] at hu
+    rcases hu with ⟨i, hi⟩
+    rw [← not_exists] at hi
+    refine ⟨i, ?_⟩
+    simp only [hi, ↓reduceDIte, Set.singleton_zero, Ideal.span_zero, Submodule.bot_toAddSubgroup,
+      AddSubgroup.index_bot, Nat.card_eq_zero_of_infinite]
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/FreeModule/Int.lean:137]: This proof is a bit long, do you think it is possible to split out a sublemma?

File: Mathlib/LinearAlgebra/FreeModule/Int.lean [hunk 7]
```diff
@@ -0,0 +1,191 @@
...
+
+/-- Given a submodule `N` in Smith normal form of a free ℤ-module, it has finite index as an
+additive subgroup (i.e., `N.toAddSubgroup.index ≠ 0`) if and only if the submodule basis has as
+many vectors as the basis for the module. -/
+lemma toAddSubgroup_index_ne_zero_iff {ι M : Type*} {n : ℕ} [Fintype ι] [AddCommGroup M]
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/FreeModule/Int.lean:142]: You have `ι : Type*` in various results (also `M`). Can you use a `variable` line at the beginning?

File: Mathlib/LinearAlgebra/FreeModule/Int.lean (hunk 3 above)
Comment (jsm28) [reply Mathlib/LinearAlgebra/FreeModule/Int.lean:54]: I've filed #18965 for my `span_singleton_toAddSubgroup_eq_zmultiples`. Could you PR your `LinearEquiv.coe_toAddEquiv_symm` in a separate PR?

File: Mathlib/LinearAlgebra/FreeModule/Int.lean (hunk 1 above)
Comment (riccardobrasca) [reply Mathlib/LinearAlgebra/FreeModule/Int.lean]: Perfect, thanks!

File: Mathlib/LinearAlgebra/FreeModule/Int.lean (hunk 7 above)
Comment (jsm28) [reply Mathlib/LinearAlgebra/FreeModule/Int.lean]: Now using `variable`.

File: Mathlib/LinearAlgebra/FreeModule/Int.lean (hunk 6 above)
Comment (jsm28) [reply Mathlib/LinearAlgebra/FreeModule/Int.lean]: It may not have made things shorter, but I've split things up further (a lemma giving the index as a product not depending on `Infinite` separate from the simpler expression assuming `Infinite`).

File: Mathlib/LinearAlgebra/FreeModule/Int.lean (hunk 3 above)
Comment (riccardobrasca) [reply Mathlib/LinearAlgebra/FreeModule/Int.lean:57]: I think you can safely add it to this PR

Comment (jsm28) [reply Mathlib/LinearAlgebra/FreeModule/Int.lean:52]: OK, I've added it (in semilinear form).

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors merge
